US07678866B2
To 350 mL of water, 150 mL of ethanol and 8.3 mL of 37% concentrated hydrochloric acid were added, and then, 29.7 g (0.1 mol) of N,N-dimethyloctadecylamine was added. The mixture was heated to 60° C. to give a solution of N,N-dimethyloctadecylamine hydrochloride. To this solution, 100 g of hectolite was added. The thus-obtained slurry was stirred at 60° C. for 3 hours. The supernatant was removed, and the residual liquid was washed with 1 L of water at 60° C. and then dried at 60° C. under a pressure of 10−3 Torr for 24 hours. The dried product was pulverized by a jet mill to give a modified hectolite having an average particle diameter of 5.2 μm. Elemental analysis of the modified hectolite revealed that the amount of N,N-dimethyloctadecylammonium ion was 0.848 mmol per g of the modified hectolite.

reactant | water | 350 mL | O | H2O
reactant | hydrochloric acid | 8.3 mL | Cl | ClH
reactant | N,N-dimethyloctadecylamine | 0.1 mol, 29.7 g | CN(C)CCCCCCCCCCCCCCCCCC | C20H43N
solvent | ethanol | 150 mL | C(C)O | C2H6O
product | N,N-dimethyloctadecylamine hydrochloride | Cl.CN(C)CCCCCCCCCCCCCCCCCC | InChI=1S/C20H43N.ClH/c1-4-5-6-7-8-9-10-11-12-13-14-15-16-17-18-19-20-21(2)3;/h4-20H2,1-3H3;1H
